US08445480B2
Step C: 5-{[({1-[4-(Trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}pyridine-2-carboxylic acid
To a suspension of methyl-5-{[({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}pyridine-2-carboxylate (272 mg, 0.643 mmol) in tetrahydrofuran, methanol, and water (5 ml, in a ratio of 3:2:1, respectively) was added lithium hydroxide (108 mg, 2.57 mmol). The reaction was stirred at ambient temperature for 18 h and then concentrated in vacuo to afford the title compound as a white solid (230 mg). Mass spectrum (ESI) 410 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.96 (s, 1H), 8.54 (d, 1H, J=4.8 Hz), 8.24 (d, 1H, J=8.3 Hz), 8.05 (d, 1H, J=8 Hz), 6.81 (d, 1H, J=4.8 Hz), 4.70-5.0 (m, 2H), 2.94-3.01 (m, 2H), 1.97-2.03 (m, 1H), 1.88 (d, 2H, J=12.8 Hz), 1.21-1.34 (m, 4H).

reactant | methyl-5-{[({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}pyridine-2-carboxylate | 0.643 mmol, 272 mg | COC(=O)C1=NC=C(C=C1)C(=O)NCC1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F | C19H20F3N5O3
reactant | water | O | H2O
reactant | lithium hydroxide | 2.57 mmol, 108 mg | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 5-{[({1-[4-(Trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)amino]carbonyl}pyridine-2-carboxylic acid | 230 mg | FC(C1=NC(=NC=C1)N1CCC(CC1)CNC(=O)C=1C=CC(=NC1)C(=O)O)(F)F | C18H18F3N5O3
